US07232820B2
2-(S)-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid (5-cyclopropyl-[1,3,4]thiadiazol-2-yl)-amide
A mixture of 6,8-difluoro-3,4-dihydro-1H-naphthalen-2-one (182 mg, 1.0 mmol), 2-amino-pentanoic acid (5-cyclopropyl-[1,3,4]thiadiazol-2-yl)-amide HCl (277 mg, 1.0 mmol) in methylene chloride (25 mL) was treated with triethyl amine (0.14 mL), then acetic acid (0.27 mL) and sodium sulfate. After stirring for 15 min, 95% pure sodium triacetoxy borohydride (424 mg, 2.0 mmol) was added and the resulting mixture was stirred at rt overnight. The mixture was quenched with dilute water and extracted with methylene chloride. The organic layer was washed with dilute sodium bicarbonate to pH 8, separated, dried and concentrated to give 306 mg of the title compound as a yellow glass foam, LC-MS, RT=1.9 min, M+1=407.0. The glass foam was purified by HPLC to give the trifluoroacetic acid salt of the title compound as a beige solid, LC-MS, RT=2.1 min, M+1=407.0.

reactant | 6,8-difluoro-3,4-dihydro-1H-naphthalen-2-one | 1.0 mmol, 182 mg | FC=1C=C2CCC(CC2=C(C1)F)=O | C10H8F2O
reactant | 2-amino-pentanoic acid (5-cyclopropyl-[1,3,4]thiadiazol-2-yl)-amide HCl | 1.0 mmol, 277 mg | Cl.C1(CC1)C1=NN=C(S1)NC(C(CCC)N)=O
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium triacetoxy borohydride | 2.0 mmol, 424 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 0.27 mL | C(C)(=O)O | C2H4O2
solvent | triethyl amine | 0.14 mL | C(C)N(CC)CC | C6H15N
product | 2-(S)-(6,8-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid (5-cyclopropyl-[1,3,4]thiadiazol-2-yl)-amide | 306 mg | C1(CC1)C1=NN=C(S1)NC([C@H](CCC)NC1CC2=C(C=C(C=C2CC1)F)F)=O | C20H24F2N4OS
